US05714471
To a stirred solution of methyl (2S)-2-hydroxy-4-methylpentanoate (0.5 g, 3.4 mmol) in anhydrous CH2Cl2 (10 mL) at R.T. under Ar was added benzyl 2,2,2-trichloroacetimidate (1.4 mL, 6.8 mmol) and trifluoromethylsulfonyl acid (25 μl). After 30 min the reaction mixture was taken up in CH2Cl2 (20 mL). The organic layer was washed with sat. NaCl (2×10 mL), 1N HCl (2×10 mL), sat. NaCl (2×10 mL), dried (MgSO4), filtered and concentrated. Purification by flash chromatography on silica gel (EA:H; 1:10) afforded methyl (2S)-2-benzoxy-4-methylpentanoate as an oil (0.6 g, 73.5%): 1 H NMR (CDCl3, 300 MHz) δ 0.80-0.98 (m, 6H), 1.40-1.58 (m, 1H), 1.69-1.87 (m, 2H), 3.74 (s, 3H), 3.93-4.06 (m, 1H), 4.42 (d, 1H, J=12.0 Hz), 4.68-4.80 (m, 1H), 7.14-7.32 (m, 5H) ppm.

reactant | methyl (2S)-2-hydroxy-4-methylpentanoate | 3.4 mmol, 0.5 g | O[C@H](C(=O)OC)CC(C)C | C7H14O3
reactant | benzyl 2,2,2-trichloroacetimidate | 6.8 mmol, 1.4 mL | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl (2S)-2-benzoxy-4-methylpentanoate | 0.6 g, 73.5% | C(C1=CC=CC=C1)O[C@H](C(=O)OC)CC(C)C | C14H20O3
